US08084448B2
A. (E)-3-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-acrylic Acid Tert-butyl Ester
To a solution of 5-(2-benzyloxy-4-iodo-phenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one (544 mg, 1 mmol), t-butyl acrylate (154 mg, 1.2 mmol) and triethylamine (1.01 g, 10 mmol) in 5 mL of acetonitrile is added Pd (OAc)2 (10 mg). The mixture is heated at 100° C. for 18 h. After allowing to cool to RT the solvent is removed under reduced pressure and the residual oil purified by flash chromatography using methylene chloride to elute the title compound as an oil.

reactant | 5-(2-benzyloxy-4-iodo-phenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | 1 mmol, 544 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C20H25IN2O4SSi
reactant | t-butyl acrylate | 1.2 mmol, 154 mg | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | triethylamine | 10 mmol, 1.01 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | (E)-3-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-acrylic Acid Tert-butyl Ester | C(C)(C)(C)OC(\C=C\C1=CC(=C(C=C1)N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O)OCC1=CC=CC=C1)=O | C27H36N2O6SSi
